US07157490B2
Step A: Ethyl 3-Iodobenzimidate hydrochloride
Hydrogen chloride gas was bubbled into a solution of 3-iodobenzonitrile (2.00 g, 8.73 mmol) in 20 mL of absolute ethanol for 30 min at room temperature. The resultant solution was kept at room temperature for 48 h, and was then concentrated under reduced pressure. The residue was triturated with diethyl ether, collected and dried in vacuo to afford the product as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3-iodobenzonitrile | 8.73 mmol, 2.00 g | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 3-Iodobenzimidate hydrochloride | Cl.IC=1C=C(C(OCC)=N)C=CC1 | InChI=1S/C9H10INO.ClH/c1-2-12-9(11)7-4-3-5-8(10)6-7;/h3-6,11H,2H2,1H3;1H
